US04048177
[1-(3,4-Dihydro-4-hydroxy-3,3-dimethyl-4-phenyl-2-quinolinyl)-4-piperidinyl]benzamide
To a solution of 2-chloro-3,4-dihydro-3,3-dimethyl-4-phenylquinolin-4-ol (1.0g., 0.0035 mole) in dry dioxan (15 ml.) and triethylamine (1 ml.) was added 4-benzamidopiperidine (0.67 g., 0.0035 mole). After heating at 80° C for 41/2 hours, the reaction mixture was cooled, a small amount of solid was filtered off and the filtrate evaporated down to a residue. Trituration with hexane yielded the title compound as the crude free base (m.p. 78° - 81° C). The hydrobromide (1.05g., m.p. 166° - 168° C) was obtained as the monohydrate on crystallisation from isopropyl alcohol. [Found: C, 62.75; H, 6.2; N, 7.3% C29H31N3O2H2O HBr requires: C, 63.0; H, 6.2; N, 7.6%].

reactant | 2-chloro-3,4-dihydro-3,3-dimethyl-4-phenylquinolin-4-ol | 0.0035 mole, 1.0g | ClC1=NC2=CC=CC=C2C(C1(C)C)(O)C1=CC=CC=C1 | C17H16ClNO
reactant | 4-benzamidopiperidine | 0.0035 mole, 0.67 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | [1-(3,4-Dihydro-4-hydroxy-3,3-dimethyl-4-phenyl-2-quinolinyl)-4-piperidinyl]benzamide | OC1(C(C(=NC2=CC=CC=C12)N1CCC(CC1)C1=C(C(=O)N)C=CC=C1)(C)C)C1=CC=CC=C1 | C29H31N3O2
